US04014872
A solution of (3R,4R)-4-(3'-bromoacetonylthio)-3-phenylacetamidoazetidin-2-one (1 g., 2.7 mmole) in acetone (50 ml.) with potassium carbonate (2 g., 14.5 mmole) was stirred at 4° for 16 hours and at 22° for 4 hours. The mixture was filtered and evaporated under reduced pressure. The resulting gum was chromatographed on silica gel (10 × 4 cm.) with Analar chloroform as solvent to give a pale-yellow foam. Crystallisation from ethyl acetate gave (6R,7R)-3-keto-7-phenylacetamidocepham (0.1 g., 12.5%). M.p. I.R. and NMR in agreement with standard obtained from material prepared in Example 3.

reactant | (3R,4R)-4-(3'-bromoacetonylthio)-3-phenylacetamidoazetidin-2-one | 2.7 mmole, 1 g | BrCC(CS[C@@H]1[C@@H](C(N1)=O)NC(CC1=CC=CC=C1)=O)=O | C14H15BrN2O3S
reactant | potassium carbonate | 14.5 mmole, 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | (6R,7R)-3-keto-7-phenylacetamidocepham | 0.1 g, 12.5% | O=C1CS[C@H]2N(C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C14H14N2O3S
